US07345056B2
12-(4-Chloro-benzenesulfonyl)-4-methyl-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2,5-dien-3-ol MS (ES) m/e 368.0 (M+H)
Prepared as described in Example using methylhydrazine and methyl 9-(4-chlorophenylsulfonyl)-3-oxo-9-azabicyclo[3.3.1]nonane-2-carboxylate, which was prepared as described in Example 12 using dimethyl carbonate and 9-(4-chlorophenylsulfonyl)-9-azabicyclo[3.3.1]nonan-3-one. See also: Bonjoch, Josep; Linares, Ana; Guardia, Manel; Bosch, Joan. Heterocycles 1987, 26(8), 2165-74.

reactant | methylhydrazine | CNN | CH6N2
reactant | methyl 9-(4-chlorophenylsulfonyl)-3-oxo-9-azabicyclo[3.3.1]nonane-2-carboxylate | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)C(=O)OC | C16H18ClNO5S
reactant | dimethyl carbonate | C(OC)(OC)=O | C3H6O3
reactant | 9-(4-chlorophenylsulfonyl)-9-azabicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2CC(CC1CCC2)=O | C14H16ClNO3S
product | 12-(4-Chloro-benzenesulfonyl)-4-methyl-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2,5-dien-3-ol | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C3=C(N(N=C3CC1CCC2)C)O | C16H18ClN3O3S
